US06555584B1
N-[2-(3-Benzyloxy-4-nitrobenzamido)benzenesulfonyl]decanamide
In a stream of nitrogen and at 0° C., 0.24 ml (1.16 mmol) of decanoyl chloride was added to an anhydrous tetrahydrofuran (10 ml) solution containing 435 mg (1.02 mmol) of 3-benzyloxy-4-nitro-N-(2-sulfamoylphenyl)benzamide produced in Reference Example 3 and 274 mg (2.23 mmol) of 4-dimethylaminopyridine, the mixture was stirred at room temperature for 1 hour and then the solvent was evaporated under a reduced pressure. The resulting residue was dissolved in ethyl acetate, washed with water, a potassium hydrgensulfate aqueous solution and saturated brine in that order and dried over anhydrous sodium sulfate, and then the solvent was evaporated under a reduced pressure. The resulting residue was purified by a silica gel column chromatography to obtain 490 mg (yield: 83.0%) of the title compound.

reactant | decanoyl chloride | 1.16 mmol, 0.24 ml | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | 3-benzyloxy-4-nitro-N-(2-sulfamoylphenyl)benzamide | 1.02 mmol, 435 mg | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(N)(=O)=O)C=CC1[N+](=O)[O-] | C20H17N3O6S
catalyst | 4-dimethylaminopyridine | 2.23 mmol, 274 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | N-[2-(3-Benzyloxy-4-nitrobenzamido)benzenesulfonyl]decanamide | 490 mg, yield: 83.0% | C(C1=CC=CC=C1)OC=1C=C(C(=O)NC2=C(C=CC=C2)S(=O)(=O)NC(CCCCCCCCC)=O)C=CC1[N+](=O)[O-] | C30H35N3O7S
